US03974281
Following substantially the procedure of Example 1, 2-(1H)-pyridone is condensed with iodobenzene to give the 1-phenyl-2-(1H)-pyridone in 82% yield as a crystalline white product.

reactant | 2-(1H)-pyridone | N1C(C=CC=C1)=O | C5H5NO
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | 1-phenyl-2-(1H)-pyridone | 82% yield | C1(=CC=CC=C1)N1C(C=CC=C1)=O | C11H9NO
